US08242310B2
Dimethylsulfone (14.1 g, 150 mmoles, from Aldrich Chemicals) and tetrahydrofuran (55 ml, from Aldrich Chemicals) were charged to a three-necked RBF at room temperature. The mixture was cooled to 5-10° C. n-BuLi (55 ml of 2.5M solution in hexanes, from Aldrich Chemicals) was added to the flask at a rate such that the reaction mixture was maintained at 5-10° C. A line rinse with 11 ml tetrahydrofuran followed. The mixture was stirred at 0-5° C. for 80 minutes. 3-Ethoxy-4-methoxybenzonitrile (22.2 g, 125 mmoles, in 45 ml tetrahydrofuran) was then charged to the flask at a rate such that the reaction mixture was maintained at 0-5° C. A line rinse with 11 ml tetrahydrofuran followed. The mixture was stirred at 0-5° C. for another 10-15 minutes. After warming to room temperature, the reaction mixture was stirred for another 1.5-2 hours and then transferred to a 1 L three-necked RBF containing a suspension of NaBH4 (6.1 g, 163 mmoles, from Acros) in 90 ml of tetrahydrofuran maintained at −10-0° C. A line rinse with 11 ml tetrahydrofuran followed. The reaction mixture was stirred at 0-5° C. for 30 minutes. TFA (43.3 ml, 563 mmoles, from Aldrich Chemicals) was charged to the flask at a rate such that the reaction mixture was maintained at 0-5° C. The mixture was stirred at 0-5° C. for 40 minutes and an additional 15 hours at ambient temperature. The mixture was then charged with 22.3 ml of DI water over 5 minutes at 15-20° C. The mixture was stirred at ambient temperature for 4 hours. Aq. NaOH (10N, 40 ml) was charged to the flask over 10-15 minutes at 45-50° C. The mixture was stirred at 45-50° C. for 2 hours, at 60° C. for 1.5 hours, at ambient overnight and 0-5° C. for 75 minutes. The mixture was clarified at 0-5° C. and the filtrate was concentrated on a Rotovap. The residual material was charged with DI water (110 ml) and Reagent alcohol (110 ml) and stirred at 0-5° C. for 2 hours. The mixture was filtered under vacuum, and the filtered solid was washed with cold Reagent alcohol (3×22 ml) followed by DI water until pH of the wash reached about 8. The solid was air dried, yielding 24.1 g (70.5%) of 2-(3-ethoxy-4-methoxyphenyl)-1-(methanesulfonyl)-eth-2-ylamine (HPLC indicated 96.78% purity by peak area).

reactant | Dimethylsulfone | 150 mmoles, 14.1 g | CS(=O)(=O)C | C2H6O2S
reactant | n-BuLi | 2.5M, 55 ml | [Li]CCCC
reactant | 3-Ethoxy-4-methoxybenzonitrile | 125 mmoles, 45 ml, 22.2 g | C(C)OC=1C=C(C#N)C=CC1OC | C10H11NO2
reactant | NaBH4 | 163 mmoles, 6.1 g | [BH4-].[Na+]
reactant | TFA | 563 mmoles, 43.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 10N, 40 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
solvent | DI water | 22.3 ml | O | H2O
product | 2-(3-ethoxy-4-methoxyphenyl)-1-(methanesulfonyl)-eth-2-ylamine | 24.1 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
